US04007033
Preparation of 1-methyl-1(1,2,2,2,-tetrachloroethyl)-3-(4-phenoxyphenyl) urea
p-Phenoxyaniline (11.7 g, 0.063 mol) was dissolved in 25 ml. 1,2-dimethoxyethane (Ansul E-121) and heated to 65° C. Methyl isocyanate (3.7 g, 0.65 mol) was added over a period of 10 minutes. Heating and stirring were continued for 1 hour. Then chloral (14.8 g, 0.1 mol) was added to the hot solution, followed immediately by the addition of 11.9 g (0.1 mol) thionyl chloride. It was kept at 65° C. for 41/2 hours. The solution was cooled to 40°, and 25 ml of methylene chloride was added. The solution was refluxed for one more hour and then allowed to cool. The solid which formed upon cooling was filtered, washed with methylene chloride to give 5.0 g (20% yield) of a white powder, melting point 165°-167° C. A second crop, melting point 160°-162° C., weighed 5.5 g (22%). Elemental analysis showed: %Cl, calc. 34.8, found 34.35; %N, calc. 6.9, found 6.8; %C, calc. 47.1, found 47.5; %H, calc. 3.46, found 3.3.

reactant | p-Phenoxyaniline | 0.063 mol, 11.7 g | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
reactant | Methyl isocyanate | 0.65 mol, 3.7 g | CN=C=O | C2H3NO
reactant | chloral | 0.1 mol, 14.8 g | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | thionyl chloride | 0.1 mol, 11.9 g | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | 1-methyl-1(1,2,2,2,-tetrachloroethyl)-3-(4-phenoxyphenyl) urea | 5.0 g, 20% yield | CN(C(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1)C(C(Cl)(Cl)Cl)Cl | C16H14Cl4N2O2
